US07285558B2
3-[7-isobutyl-5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-N-methylbenzamide
Triethylamine (0.04 mL) followed by isobutylchloroformate (0.033 g) were added to a solution of 3-[7-isobutyl-5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]benzoic acid (0.08 g) in THF (1 mL) at 0° C. The mixture was stirred at 0° C. for 1 hour. Methylamine (2M, 2 mL) was added and the mixture was stirred at 0° C. for 1 h, then at room temperature for 2 h. Reaction was diluted with water (10 mL) and extracted with dichloromethane (2×10 mL). Combined organic layers were dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The residue was purified on preparative HPLC to give the title compound (0.027 g).

reactant | Triethylamine | 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 0.033 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 3-[7-isobutyl-5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]benzoic acid | 0.08 g | C(C(C)C)N1C(N(C(C=2C1=NN(C2C=2C=C(C(=O)O)C=CC2)CC2=CC=CC1=CC=CC=C21)=O)C)=O | C28H26N4O4
reactant | Methylamine | 2M, 2 mL | CN | CH5N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 3-[7-isobutyl-5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-N-methylbenzamide | 0.027 g | C(C(C)C)N1C(N(C(C=2C1=NN(C2C=2C=C(C(=O)NC)C=CC2)CC2=CC=CC1=CC=CC=C21)=O)C)=O | C29H29N5O3
